US05814631
Synthesis of 7-chloro-3-(2-chlorobenzenesulfonyl)-2,4(1H,3H)-quinazolinedione (Compound 127)
1.14 g (5.22 mmol) of 2-chlorobenzenesulfonylisocyanate and 896 mg (5.22 mmol) of 2-amino-4-chlorobenzoic acid were treated in the same way as in Example 1 to obtain 1.00 g of the above-identified compound (yield 51.6%). Properties: colorless crystal, Melting point: 275°-276° C., PMR (δppm, DMSO-d6):7.16 (1H,s), 7.23 (1H,d), 7.63-7.76 (4H,m), 7.86 (1H,d), 8.20 (1H,d), 11.79 (1H,br).

reactant | 2-chlorobenzenesulfonylisocyanate | 5.22 mmol, 1.14 g | ClC1=C(C=CC=C1)S(=O)(=O)N=C=O | C7H4ClNO3S
reactant | 2-amino-4-chlorobenzoic acid | 5.22 mmol, 896 mg | NC1=C(C(=O)O)C=CC(=C1)Cl | C7H6ClNO2
product | 7-chloro-3-(2-chlorobenzenesulfonyl)-2,4(1H,3H)-quinazolinedione | 1.00 g, yield 51.6% | ClC1=CC=C2C(N(C(NC2=C1)=O)S(=O)(=O)C1=C(C=CC=C1)Cl)=O | C14H8Cl2N2O4S
